US06603012B2
b) Preparation of (RS)-butoxy-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-acetic Acid Ethyl Ester
6 g of oxo-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-acetic acid ethyl ester and 2.6 g of butoxytrimethylsilane were dissolved in 200 ml of methylene chloride. The solution was cooled to 0° C., treated with 400 mg of trimethylsilyl triflate and stirred at 0° C. for 1.5 hours. After the dropwise addition of 2 g of triethylsilane, the reaction mixture was stirred at room temperature for 26 hours, then diluted with 500 ml of water, acidified with 2N hydrochloric acid and extracted with ether. The organic phase was washed with water, dried (Na2SO4) and the solvent evaporated. The oily residue was purified with flash chromatography (silica gel, eluent hexane/tert.butyl methyl ether 3%) and preparative HPLC (YMC CN 60 Å5-15 μm, hexane) to give 3.5 g of the title product as colorless oil.

reactant | oxo-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-acetic acid ethyl ester | 6 g | C(C)OC(C(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)=O)=O | C18H24O3
reactant | butoxytrimethylsilane | 2.6 g | C(CCC)O[Si](C)(C)C | C7H18OSi
reactant | trimethylsilyl triflate | 400 mg | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
reactant | triethylsilane | 2 g | C(C)[SiH](CC)CC | C6H16Si
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | water | 500 ml | O | H2O
product | (RS)-butoxy-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-acetic Acid Ethyl Ester | 3.5 g | C(C)OC(C(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)OCCCC)=O | C22H34O3
